US06214869B1
(cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]acetamide
The title compound was prepared by the general procedure described in Example 1 using (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine (0.79 mmol), triethylamine (2.37 mmol) and acetyl chloride (0.95 mmol). Purification by silica gel column chromatography (Hex:EtOAc, 1:1) provided 92 mg of the desired product (50%) as an off-white wax. HPLC purity=93%.

reactant | (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine | 0.79 mmol | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)NC | C12H15NO
reactant | triethylamine | 2.37 mmol | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.95 mmol | C(C)(=O)Cl | C2H3ClO
product | (cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]acetamide | 92 mg, 50% | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)CNC(C)=O | C14H17NO2
